US08729263B2
To the solution containing 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1.22 kg, 4.8 mol) from the previous step was added 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine (1.17 kg, 4.4 mol). K3PO4-3H2O (2.34 kg, 8.8 mol) was dissolved in water (5 L) then added to the above solution. The mixture was purged with nitrogen 3 times. Pd(PPh3)4 (500 g, 0.42 mol) was added under nitrogen, and the reaction mixture was heated to reflux at 89° C. for 16 hours. After 16 hours, HPLC showed that the reaction was complete. After cooling to room temperature, the mixture was filtered through a pad of celite and the filtrate was concentrated under reduced pressure. CH2Cl2 (10 L×3) and 10% K2CO3 solution (15 L) were added to the above residue. The organic layers were separated and combined, followed by washing with water twice (10 L×2) and concentration under reduced pressure to give yellow oil. MTBE (10 L) was used to dissolve the yellow oil. Petroleum ether (4 L) was added slowly with stirring. A few dark solids precipitated and were removed by filtration. The filtrate was concentrated under reduced pressure and dissolved in CH2Cl2 (20 L). 2N HCl (5 L) was added slowly and a large amount of precipitate formed. After stirring for another 1 hour, the solid was collected by filtration and washed with EtOAc (2 L). The solid was dried in vacuo at 50° C. to give 5-chloro-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride (0.9 kg, 2.2 mol). MS m/z 362.0 [M+H]+; 1H-NMR: (DMSO-d6, 400 MHz) δ 9.26 (d, J=11.6 Hz, 1H), 8.49 (d, J=12 Hz, 1H), 8.38 (d, J=9.6 Hz, 1H), 7.93 (d, J=8.4 Hz, 1H), 7.44 (d, J=9.6 Hz, 1H), 7.07 (d, J=2 Hz, 1H), 7.02 (dd, Ja=2 Hz, Jb=8.4 Hz, 1H), 5.73 (m, 1H), 2.31 (dd, Ja=4 Hz, Jb=13.2 Hz, 2H), 1.84 (dd, Ja=11.6 Hz, Jb=2 Hz, 2H), 1.51 (s, 6H), 1.49 (s, 6H).

reactant | 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 4.8 mol, 1.22 kg | ClC=1C=CC(=C(C1)O)B1OC(C(O1)(C)C)(C)C | C12H16BClO3
reactant | 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine | 4.4 mol, 1.17 kg | ClC=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | C13H20ClN3O
reactant | MTBE | 10 L | CC(C)(C)OC | C5H12O
solvent | water | 5 L | O | H2O
catalyst | Pd(PPh3)4 | 0.42 mol, 500 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-chloro-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride | 2.2 mol, 0.9 kg | Cl.ClC=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C19H24ClN3O2.ClH/c1-18(2)10-13(11-19(3,4)23-18)25-17-8-7-15(21-22-17)14-6-5-12(20)9-16(14)24;/h5-9,13,23-24H,10-11H2,1-4H3;1H
